US05223523
Ethyl 2-(3-fluoropyrid-4-yl)lactate
A 27 ml portion of commercially-available 2.03M lithium diisopropylamide-THF/heptane solution (Lithco) was diluted with 50 mL of dry THF, cooled to -60° C. under nitrogen, and stirred while adding a solution of 4.3 mL (4.8 g, 50 mmol) of 3-fluropyridine in 10 mL of dry THF at a rate that held the mixture below -55° C. The resulting slurry was stirred at -60° C. for another 30 minutes, and then with continued cooling and stirring a solution of 6.0 mL (6.4 g, 55 mmol) of ethyl pyruvate in 30 mL of dry THF was added as quickly as possible while maintaining an internal temperature of -60° C. The resulting thin slurry was allowed to come to -10° C., then diluted with 200 mL each of water and ether. The aqueous phase was adjusted to pH 7 by addition of 1N aqueous HCl, the ether phase was separated, the aqueous phase was extracted with two 100 mL portions of ether, and the combined ether phases were washed with three 100-mL portions of water and 100 mL of brine, dried over magnesium sulfate, and evaporated to leave 5.8 g of a dark brown oil. Chromatography over silica gel, eluting with methylene chloride-methanol 99:1, provided 3.7 g (35%) of the title compound as a pale yellow solid: mp 56°-60° C.; IR (Nujol) 2600-3400, 1755, 1730 cm-1 ; NMR (CDCl3, 200 MHz) 1.2 (3H, t, J=7), 1.8 (3H, s), 3.9 (1H, s), 4.3 (2H, q, J=7), 7.5 (1H d of d, J=5,7), 8.4-8.5 (2H, m).

reactant | lithium diisopropylamide THF heptane | 2.03M | C(C)(C)[N-]C(C)C.[Li+].C1CCOC1.CCCCCCC
reactant | 3-fluropyridine | 50 mmol, 4.3 mL, 4.8 g | FC=1C=NC=CC1 | C5H4FN
reactant | ethyl pyruvate | 55 mmol, 6.0 mL, 6.4 g | C(C(=O)C)(=O)OCC | C5H8O3
reactant | HCl | 1N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | ether | CCOCC | C4H10O
product | Ethyl 2-(3-fluoropyrid-4-yl)lactate | 5.8 g | FC=1C=NC=CC1C(C(=O)OCC)(O)C | C10H12FNO3
